Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-1.31809835064
[C:3]([H:4])([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-2.7010726483
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.22428404492
[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.62366313231
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],2.42256538967
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],0.874712692429
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][H:4],1.58905582722
[H:1][C:2]=[C:4]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3][C:5]([H:6])=[C:7]>>[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.26284281147
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-2.74645895089
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3],3.29307565996
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.37014898022
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.12745964
[H:10].[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.974948267469999
[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.18219548393
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.95412292123
[H:1][C:2]/[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]=[C:3]([C:4]([H:5])=[O:6])[C:10]([H:11])([H:12])[H:13],2.29359239358
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-0.0293419589197999
[H:1][C:2]([H:3])[H:4].[O:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.259523242521
[H:1][C:2][O:3]/[C:4]=[C:6](\[H:7])[O:8][H:9].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-5.237379078409999
[H:10].[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]#[C:8][H:9]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10],-4.14345386397
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:10]([H:11])([H:12])[H:13],4.17330059951
[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8][H:9]>>[C:4]([C:5][O:6][H:7])#[C:8][H:9].[O:1]=[C:2][H:3],1.0977448442
[C:5][H:6].[O:1][O:2][C:3]#[C:4][C:7]([H:8])([H:9])[H:10]>>[O:1][O:2]/[C:3]=[C:4](/[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.31873687076
[C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.17033052801
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.86977973176
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])[H:12].[H:8],4.0306145677
